US05919776
6-(2'-Chlorocinnamoyl)amino-4-methoxy-2-methyl-quinoline
A solution of 2-chlorocinnamoyl chloride (prepared by treatment of 2-chlorocinnamic acid with oxalyl cloride and catalytic DMF in dichloromethane) (0.27 gm) in 1 mL acetic acid was added to a solution of 6-amino-4-methoxy-2-methyl-quinoline (0.25 g, 1.33 mmol) in glacial acetic acid (3 mL). A heavy precipitate formed, and the mixture was stirred for 1 h at room temperature. Ether (25 mL) was added and the solid was filtered, washed with ether, and dried by suction. The hydrochloride salt was suspended in warm water (25 mL) and ethanol (25 mL) and heated until dissolved. After cooling to room temperature, 5N sodium hydroxide was added to give a white precipitate that was filtered, and washed with water. Recrystallization from ethanol afforded the title compound; yield 0.27 g (58%); m.p. 228-229°; MS (FAB): m/z 353 (M+1).

reactant | 2-chlorocinnamoyl chloride | 0.27 gm | ClC1=C(C=CC(=O)Cl)C=CC=C1 | C9H6Cl2O
reactant | 6-amino-4-methoxy-2-methyl-quinoline | 1.33 mmol, 0.25 g | NC=1C=C2C(=CC(=NC2=CC1)C)OC | C11H12N2O
reactant | Ether | 25 mL | CCOCC | C4H10O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 6-(2'-Chlorocinnamoyl)amino-4-methoxy-2-methyl-quinoline | ClC1=C(C=CC(=O)NC=2C=C3C(=CC(=NC3=CC2)C)OC)C=CC=C1 | C20H17ClN2O2
